US08541461B2
67B. 4-(4-Bromo-phenyl)-4-[4-(2-methoxy-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-(4-Bromo-phenyl)-4-(4-hydroxy-phenyl)piperidine-1-carboxylic acid tert-butyl ester (100 mg, 0.23 mmol), 2-bromoethyl methylether (200 ul) and potassium carbonate (64 mg, 0.46 mmol) in dimethylformamide (2 ml) was heated in a CEM Explorer™ microwave to 50° C. for 30 minutes using 50 watts power. The reaction was poured into sodium hydroxide (2N, 4 ml), stirred for 5 minutes then extracted into ethyl acetate (2×30 ml). The combined organic liquors were dried (MgSO4), concentrated and the residue was purified by column chromatography (SiO2), eluting with ethyl acetate/petrol (25:75) gradient to (50:50) to afford the title compound (82 mg). LCMS: (PS-A2) Rt 4.00 [M+H]+ 490.

reactant | 4-(4-Bromo-phenyl)-4-(4-hydroxy-phenyl)piperidine-1-carboxylic acid tert-butyl ester | 0.23 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)Br | C22H26BrNO3
reactant | 2-bromoethyl methylether | 200 ul | BrCCOC | C3H7BrO
reactant | potassium carbonate | 0.46 mmol, 64 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(4-Bromo-phenyl)-4-[4-(2-methoxy-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 82 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)OCCOC)C1=CC=C(C=C1)Br | C25H32BrNO4
